US07906517B2
{2-[(3,5-Bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-butyl-ethyl-amine (4.6 g), 5-bromo-2-chloropyrimidine (3.56 g) and N-ethyldiisopropylethylamine (4.8 ml) are dissolved in toluene (100 ml) and the mixture is heated under reflux overnight. The reaction solution is cooled to room temperature, and thereto are added ethyl acetate and water, and the mixture is separated and the organic layer is washed with a saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→9:1) to give (3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-[2-(butyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amine (5.24 g). MS (m/z): 657/659 [M+H]+

reactant | {2-[(3,5-Bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-butyl-ethyl-amine | 4.6 g | FC(C=1C=C(CNCC2=C(C=CC(=C2)C(F)(F)F)N(CC)CCCC)C=C(C1)C(F)(F)F)(F)F | C23H25F9N2
reactant | 5-bromo-2-chloropyrimidine | 3.56 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | N-ethyldiisopropylethylamine | 4.8 ml | C(C)NC(C)(C(C)C)C(C)C | C10H23N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-[2-(butyl-ethyl-amino)-5-trifluoromethyl-benzyl]-amine | 5.24 g | FC(C=1C=C(CN(CC2=C(C=CC(=C2)C(F)(F)F)N(CC)CCCC)C2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C27H26BrF9N4
